US07932402B2
a. Preparation of toluene-4-sulfonic acid 8-benzyl-8-azabicyclo[3.2.1]oct-2-en-3-yl ester
To a 1 L flask was added 8-benzyl-8-azabicyclo[3.2.1]octan-3-one (12.9 g, 60 mmol) and THF (100 mL). The mixture was stirred at room temperature until complete dissolution was observed, and then was cooled to −30° C. Lithium-bis-(trimethylsilyl)amide (LiHMDS) solution (1 M in THF, 69 mL, 69 mmol) was added to the reaction solution over 30 min. The solution was stirred at −25±5° C. for 1 h. A solution of p-toluene sulfonic acid anhydride (22.5 g, 69 mmol) in THF (150 mL) was added to the reaction mixture at a temperature of −7±3° C. The resulting solution was stirred at −10° C. to 10° C. for 1 h. To the solution was added EtOAc (250 mL) and 1 N NaOH (200 mL) and the solution was stirred at room temperature for 5 min. The organic layer was separated and washed with 0.5 N NaOH (200 mL) followed by 1:1 brine:water (200 mL). The organic layer was dried over Na2SO4, and concentrated to give a yellow solid residue. The solids were slurried in hexane (40 mL)/trace EtOAc (<5 mL) and filtered to provide the title intermediate (19.1 g, 86% yield).

reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one | 60 mmol, 12.9 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
reactant | Lithium bis-(trimethylsilyl)amide | 69 mmol, 1 M, 69 mL | [Li].C[Si](C)(C)[N-][Si](C)(C)C
reactant | p-toluene sulfonic acid anhydride | 69 mmol, 22.5 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | NaOH | 1 N, 200 mL | [OH-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | 40 mL | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | toluene-4-sulfonic acid 8-benzyl-8-azabicyclo[3.2.1]oct-2-en-3-yl ester | 19.1 g, 86% yield | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)OS(=O)(=O)C2=CC=C(C=C2)C | C21H23NO3S
